US07939528B2
To an ethanol (3 mL) solution of the crude 1,1-dimethylethyl 2,3-dihydro-1H-inden-2-yl{[4-({2-fluoro-4-nitro-5-[(trifluoroacetyl)amino]phenyl}oxy)phenyl]methyl}carbamate (0.375 g, 0.636 mmol) was added 10% palladium on carbon (0.076 g) and the reaction mixture was subjected to hydrogenation under an atmosphere of hydrogen. The reaction mixture was stirred for 4 hours and the catalyst removed by filtration through Celite. The filtrate was concentrated and the residue re-dissolved in glacial acetic acid (3 mL) and heated to 60 degrees Centigrade for 1 hour, cooled, concentrated and azeotroped several times with toluene/CH2Cl2. The residue was dissolved in CH2Cl2 and trifluoroacetic acid added. The reaction mixture was stirred for 16 hours and then concentrated. Purification of the final compound was accomplished by preparative HPLC to afford N-[(4-{[5-Fluoro-2-(trifluoromethyl)-1H-benzimidazol-6-yl]oxy}phenyl)methyl]-2,3-dihydro-1H-inden-2-amine trifluoroacetate (Example No. 100).

reactant | 1,1-dimethylethyl 2,3-dihydro-1H-inden-2-yl{[4-({2-fluoro-4-nitro-5-[(trifluoroacetyl)amino]phenyl}oxy)phenyl]methyl}carbamate | 0.636 mmol, 0.375 g | C1C(CC2=CC=CC=C12)N(C(OC(C)(C)C)=O)CC1=CC=C(C=C1)OC1=C(C=C(C(=C1)NC(C(F)(F)F)=O)[N+](=O)[O-])F | C29H27F4N3O6
reactant | ethanol | 3 mL | C(C)O | C2H6O
catalyst | palladium on carbon | 0.076 g | [Pd] | Pd
product | N-[(4-{[5-Fluoro-2-(trifluoromethyl)-1H-benzimidazol-6-yl]oxy}phenyl)methyl]-2,3-dihydro-1H-inden-2-amine trifluoroacetate | FC(C(=O)O)(F)F.FC1=CC2=C(NC(=N2)C(F)(F)F)C=C1OC1=CC=C(C=C1)CNC1CC2=CC=CC=C2C1 | InChI=1S/C24H19F4N3O.C2HF3O2/c25-19-11-20-21(31-23(30-20)24(26,27)28)12-22(19)32-18-7-5-14(6-8-18)13-29-17-9-15-3-1-2-4-16(15)10-17;3-2(4,5)1(6)7/h1-8,11-12,17,29H,9-10,13H2,(H,30,31);(H,6,7)
